US04333730
Preparation of 2,4-diaminophenyl β-aminoethyl ether trihydrochloride
2 g. (0.0087 mol) of 2-acetylamino-4-aminophenyl β-aminoethyl ether are heated in 5 cm3 of hydrochloric acid for 20 minutes on a boiling waterbath. On cooling, the trihydrochloride crystallizes. The product is filtered off, washed with ether and dried in vacuo over KOH. It melts at 280° C. with decomposition.

reactant | 2-acetylamino-4-aminophenyl β-aminoethyl ether | 0.0087 mol | NCCOC1=C(C=C(C=C1)N)NC(C)=O | C10H15N3O2
reactant | hydrochloric acid | 5 cm3 | Cl | ClH
product | 2,4-diaminophenyl β-aminoethyl ether trihydrochloride | Cl.Cl.Cl.NCCOC1=C(C=C(C=C1)N)N | InChI=1S/C8H13N3O.3ClH/c9-3-4-12-8-2-1-6(10)5-7(8)11;;;/h1-2,5H,3-4,9-11H2;3*1H
